US06310217B1
B. Ethyl (E)-4-({2-[2-(methoxycarbonyl)ethyl]-3,5-dimethyl-4-octadecanoylpyrrol-1-yl}methyl)cinnamate
0.1 ml of BF3/ethyl ether complex is added to a solution of 275 mg (0.5 mmol) of (E)-4-[(2,4-dimethyl-3-octadecanoylpyrrol-1-yl)methyl]cinnamate and 0.25 ml of methyl acrylate in 5 ml of absol. nitrobenzene. The mixture is stirred at room temperature for 24 h. Addition of saturated NaCl solution is followed by extraction with ether. After drying over Na2SO4, the solvent is distilled off, and the residue is purified by CC (silica gel, 1. petroleum ether/ethyl acetate 9+1, 2. petroleum ether/ethyl acetate 8+2). The product fractions are concentrated; the remaining oil crystallizes after some time.

reactant | (E)-4-[(2,4-dimethyl-3-octadecanoylpyrrol-1-yl)methyl]cinnamate | 0.5 mmol, 275 mg | CC=1N(C=C(C1C(CCCCCCCCCCCCCCCCC)=O)C)CC1=CC=C(/C=C/C(=O)[O-])C=C1
reactant | methyl acrylate | 0.25 ml | C(C=C)(=O)OC | C4H6O2
reactant | nitrobenzene | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
reactant | NaCl | [Na+].[Cl-]
product | Ethyl (E)-4-({2-[2-(methoxycarbonyl)ethyl]-3,5-dimethyl-4-octadecanoylpyrrol-1-yl}methyl)cinnamate | COC(=O)CCC=1N(C(=C(C1C)C(CCCCCCCCCCCCCCCCC)=O)C)CC1=CC=C(/C=C/C(=O)OCC)C=C1 | C40H61NO5
